US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-t-butylphenyl)urea dihydrochloride
A solution of 3-iodopropyl isocyanate (4.22 g; 20 mmole) in ether (25 ml) was added to a solution of 4-t-butylaniline (2.98 g; 20 mmole) in ether (25 ml), and the resulting solution refluxed for 3 hours. After removal of the solvent, 4-chlorobenzylpiperazine (4.18 g; 20 mmole) in ethanol (50 ml) was added and the resulting solution refluxed for 24 hours. Aqueous sodium bicarbonate was added to the mixture and the product was extracted with methylene chloride, dried (sodium sulfate), and the salt precipitated with ethereal hydrochloric acid. Recrystallization several times with ethanol provided the title compound (3.73 g; 33% yield) as colorless crystals, m.p. 240°-241° C.

reactant | 3-iodopropyl isocyanate | 20 mmole, 4.22 g | ICCCN=C=O | C4H6INO
reactant | 4-t-butylaniline | 20 mmole, 2.98 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | 4-chlorobenzylpiperazine | 20 mmole, 4.18 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-t-butylphenyl)urea dihydrochloride | 3.73 g, 33% yield | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)C(C)(C)C)C=C1 | InChI=1S/C25H35ClN4O.2ClH/c1-25(2,3)21-7-11-23(12-8-21)28-24(31)27-13-4-14-29-15-17-30(18-16-29)19-20-5-9-22(26)10-6-20;;/h5-12H,4,13-19H2,1-3H3,(H2,27,28,31);2*1H
